US06063734
0.5 g of 3-(1-methyl-3-trifluoromethyl-5-chloropyrazol-4-yl)-2-(4-tert-butylthiazol-2-yl)-3-hydroxyacrylonitrile and 0.14 g of triethylamine were added to 15 ml of THF at room temperature and stirred to give a uniform solution. 0.16 g of pivaloyl chloride was dropwise added to the solution with cooling with ice, then gradually heated, and stirred at room temperature for 8 hours. The reaction mixture was poured into ice water, extracted with ethyl acetate, and washed thrice with saturated saline. After having been dried over sodium sulfate, the resulting product was passed through a short column filled with silica gel. The solvent was distilled off under reduced pressure, and the residual product was applied to silica gel thin-layer chromatography (developer solvent: chloroform) to obtain 0.16 g of 3-(1-methyl-3-trifluoromethyl-5-chloropyrazol-4-yl)-2-(4-tert-butylthiazol-2-yl)-3-pivaloyloxyacrylonitrile (III-6) and 0.35 g of its geometric isomer (III-15).

reactant | 3-(1-methyl-3-trifluoromethyl-5-chloropyrazol-4-yl)-2-(4-tert-butylthiazol-2-yl)-3-hydroxyacrylonitrile | 0.5 g | CN1N=C(C(=C1Cl)C(=C(C#N)C=1SC=C(N1)C(C)(C)C)O)C(F)(F)F | C15H14ClF3N4OS
reactant | triethylamine | 0.14 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.16 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-(1-methyl-3-trifluoromethyl-5-chloropyrazol-4-yl)-2-(4-tert-butylthiazol-2-yl)-3-pivaloyloxyacrylonitrile | 0.16 g | CN1N=C(C(=C1Cl)C(=C(C#N)C=1SC=C(N1)C(C)(C)C)OC(C(C)(C)C)=O)C(F)(F)F | C20H22ClF3N4O2S
